US08134001B2
Preparation of intermediate 1-[5-fluoro-2-(tetrahydro-thiopyran-4-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene
In a manner similar to the method described in Example 112b, 5-fluoro-2-(tetrahydro-thiopyran-4-yloxy)-benzaldehyde was treated with LHMDS, acetyl chloride, triethylamine and trimethyl silane to give the desired compound, which was directly used for the next step.

reactant | 5-fluoro-2-(tetrahydro-thiopyran-4-yloxy)-benzaldehyde | FC=1C=CC(=C(C=O)C1)OC1CCSCC1 | C12H13FO2S
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | trimethyl silane | C[SiH](C)C | C3H10Si
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[5-fluoro-2-(tetrahydro-thiopyran-4-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | FC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1CCSCC1 | C17H24FNO2SSi
